US04464387
1-phenyl-3-cyclohexyl hydantoin
A mixture of N-phenyl glycine (0.1 mole), cyclohexyl isocyanate (0.12 mole) and toluene (30 ml) was refluxed for about 6 hours and then cooled. The crude product was recrystallized from ethanol to produce a 60% yield of the above-identified product having a melting point of approximately 196° C.

reactant | N-phenyl glycine | 0.1 mole | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | cyclohexyl isocyanate | 0.12 mole | C1(CCCCC1)N=C=O | C7H11NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-3-cyclohexyl hydantoin | 60% yield | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1)C1CCCCC1 | C15H18N2O2
